US05728829
3-(N-tert-Butoxylcarbonyl-N-methylamino)phenyl isocyanate
Et3N (3.71 g, 36.7 mmol) and a solution of ethyl chloroformate (4.31 g, 39.7 mmol) in acetone (10 ml) were successively added dropwise to a solution of 3-(N-tert-butoxylcarbonyl-N-methylamino)benzoic acid (8.0 g, 31.8 mmol) in acetone (64 ml) below 5° C. After stirring for 30 min, a solution of NaN3 (3.10 g, 47.7 mmol) in water (10 ml) was added to the solution below 5° C. The mixture was stirred at the same temperature for a further 1 h, then poured into toluene (80 ml) and water (160 ml). The organic portion was washed with brine, refluxed for 2 h and evaporated. The residue was distilled (100°-105° C./0.9-1.0 mmHg) to afford the title compound (6.2 g, 78%) as a yellow oil.

reactant | Et3N | 36.7 mmol, 3.71 g | CCN(CC)CC | C6H15N
reactant | ethyl chloroformate | 39.7 mmol, 4.31 g | ClC(=O)OCC | C3H5ClO2
reactant | 3-(N-tert-butoxylcarbonyl-N-methylamino)benzoic acid | 31.8 mmol, 8.0 g | O(C(C)(C)C)C(=O)N(C)C=1C=C(C(=O)O)C=CC1 | C13H17NO4
reactant | NaN3 | 47.7 mmol, 3.10 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 64 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
solvent | water | 160 ml | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(N-tert-Butoxylcarbonyl-N-methylamino)phenyl isocyanate | 6.2 g, 78% | O(C(C)(C)C)C(=O)N(C)C=1C=C(C=CC1)N=C=O | C13H16N2O3
